US06184242B2
A mixture of 2,2,2-trifluoro-N-[4-(piperidin-4-ylmethyl)-phenyl]acetamide (0.5 g, 1.75 mmol) and triethylamine (0.23 g, 2.1 mmol) in dichloromethane (10 mL) was cooled in an ice bath under nitrogen atmosphere. A solution of benzenesulfonyl chloride (0.37 9, 2.1 mmoL) in dichloromethane (1 mL) was added under to the mixture while stirring. After 2 hours, the reaction mixture was quenched with water. The separated organic layer was washed with cold water and brine, dried, and solvents removed in vacuo. The residue was crystallized from ethyl acetate/hexanes to give 2,2,2-trifluoro-N-[4-(1-benzenesulfonyl-piperidin-4-ylmethyl)-phenyl]acetamide (0.43 g, 57%), m.p. 194-195° C.; Analysis for C20H21N2O3SF3: Calc.: C, 56.32; H, 4.96; N, 6.57; Found: C, 56.54; H, 4.99; N, 6.68.

reactant | 2,2,2-trifluoro-N-[4-(piperidin-4-ylmethyl)-phenyl]acetamide | 1.75 mmol, 0.5 g | FC(C(=O)NC1=CC=C(C=C1)CC1CCNCC1)(F)F | C14H17F3N2O
reactant | triethylamine | 2.1 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 2,2,2-trifluoro-N-[4-(1-benzenesulfonyl-piperidin-4-ylmethyl)-phenyl]acetamide | 0.43 g, 57% | FC(C(=O)NC1=CC=C(C=C1)CC1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)(F)F | C20H21F3N2O3S
